US05296608
A solution of 19.23 g (0.065 mol) of (S)-4-hydroxyalpha[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoic acid methyl ester and 24.0 g (0.067 mol) of N-phenyl-N-trifluoromethylsulfonyl-1,1,1-trifluoromethane sulfonamide in 175 mL of dry dichloromethane was cooled in an ice bath and 9.7 mL (0.70 mol) of triethylamine was added over three minutes. The resulting mixture was held at 0° C. for 1 hour and allowed to warm to room temperature over 1 hour. The reaction mixture was diluted with 500 mL of ether and washed is successively with water (1×100 mL), 1N sodium hydroxide solution (2×100 mL), water (1×100 mL), and saturated sodium chloride solution (1×100 mL). The organic phase was dried over magnesium sulfate and concentrated to an oil which was purified by preparative liquid chromatography using silica gel cartridges on a Waters Prep 500 chromatograph, eluting with 20% ethyl acetate-hexane. The pure fractions were combined and evaporated to give 26.78 g (96%) of (S)-4-[[(trifluoromethyl)sulfonyl]oxyl-alpha-[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoic acid methyl ester as a colorless oil which crystallized on standing, mp 48°-49° C.

reactant | (S)-4-hydroxyalpha[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoic acid methyl ester | 0.065 mol, 19.23 g | COC([C@H](CC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C15H21NO5
reactant | N-phenyl-N-trifluoromethylsulfonyl-1,1,1-trifluoromethane sulfonamide | 0.067 mol, 24.0 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 0.70 mol, 9.7 mL | C(C)N(CC)CC | C6H15N
reactant | ether | 500 mL | CCOCC | C4H10O
solvent | dichloromethane | 175 mL | ClCCl | CH2Cl2
product | [(trifluoromethyl)sulfonyl]oxyl-alpha-[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoic acid methyl ester | COC(C(CC1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C16H20F3NO7S
